US07217724B2
(1R)-2-(((1R)-2-(7-(Benzyloxy)-1H-indol-3-yl)-1-methylethyl)amino)-1-pyridin-3-ylethanol
To a solution of (2R)-N-((1R)-2-(7-(benzyloxy)-1H-indol-3-yl)-1-methylethyl)-2-hydroxy-2-pyridin-3-ylacetamide (283 mg, 0.681 mmol) in tetrahydrofuran (15 mL) is added a 2M solution of boranedimethyl sulfide complex in tetrahydrofuran (2.04 mL, 4.09 mmol), and the mixture is refluxed for 3 hours. To the reaction solution is added a 10% hydrogen chloride solution in methanol (30 mL), and the mixture is stirred for 30 minutes. The solvent is evaporated, and the residue is separated into a saturated aqueous sodium hydrogen carbonate solution and chloroform. The organic layer is washed with a saturated brine, and dried over sodium sulfate. The solvent is distilled off, and the obtained crude product is purified by silica gel column chromatography (a saturated ammonia solution in chloroform-methanol=100:1) to give the title compound (184.8 mg, yield: 68%).

reactant | (2R)-N-((1R)-2-(7-(benzyloxy)-1H-indol-3-yl)-1-methylethyl)-2-hydroxy-2-pyridin-3-ylacetamide | 0.681 mmol, 283 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)C[C@@H](C)NC([C@@H](C=1C=NC=CC1)O)=O | C25H25N3O3
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
solvent | tetrahydrofuran | 4.09 mmol, 2.04 mL | O1CCCC1 | C4H8O
product | (1R)-2-(((1R)-2-(7-(Benzyloxy)-1H-indol-3-yl)-1-methylethyl)amino)-1-pyridin-3-ylethanol | 184.8 mg, yield: 68% | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)C[C@@H](C)NC[C@H](O)C=1C=NC=CC1 | C25H27N3O2
